US09399640B2
Step 1. N-(4-Bromo-3-fluoro-2-nitrophenyl)-2,2,2-trifluoroacetamide
A solution of 4-bromo-3-fluoro-2-nitroaniline (0.955 g, 4.06 mmol) and triethylamine (1.13 mL, 8.13 mmol) in methylene chloride (21.0 mL) was cooled to 0° C., followed by dropwise addition of trifluoroacetic anhydride (1.15 mL, 8.13 mmol). The reaction mixture was stirred at 0° C. for 30 min, then warmed to 20° C. and stirred at that temperature for 1 h. The reaction mixture was diluted with brine. Layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried with magnesium sulfate, filtered, and concentrated in vacuo to give a crude oil. Purification by flash column chromatography (100% hexanes to 30% EtOAc/hexanes) gave the desired product (1.27 g, 94%) as a yellow solid.

reactant | 4-bromo-3-fluoro-2-nitroaniline | 4.06 mmol, 0.955 g | BrC1=C(C(=C(N)C=C1)[N+](=O)[O-])F | C6H4BrFN2O2
reactant | triethylamine | 8.13 mmol, 1.13 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 8.13 mmol, 1.15 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 21.0 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | N-(4-Bromo-3-fluoro-2-nitrophenyl)-2,2,2-trifluoroacetamide | 1.27 g, 94% | BrC1=C(C(=C(C=C1)NC(C(F)(F)F)=O)[N+](=O)[O-])F | C8H3BrF4N2O3
